US07732596B2
Benzo[b]thiophen-7-yl-p-tolylmethanol
A Grignard reagent was prepared using 7-bromobenzo-[b]thiophene (1.0 g), magnesium (0.13 g), a catalytic amount of iodine and tetrahydrofuran (3 mL) according to the general method. To the Grignard reagent solution was added a solution of 4-methylbenzaldehyde (0.62 g) in tetrahydrofuran (5 mL) at 0° C. under an argon atmosphere. The reaction mixture was stirred at room temperature overnight and a saturated ammonium chloride aqueous solution was added to the mixture. The mixture was extracted with diethyl ether, and the organic layer washed with brine and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on aminopropylated silica gel (eluent: tetrahydrofuran). Further purification by column chromatography on silica gel (eluent; n-hexane/ethyl acetate=6/1) gave the title compound (0.68 g) as yellow oil.

reactant | 7-bromobenzo-[b]thiophene | 1.0 g | BrC1=CC=CC2=C1SC=C2 | C8H5BrS
reactant | magnesium | 0.13 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 4-methylbenzaldehyde | 0.62 g | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | Benzo[b]thiophen-7-yl-p-tolylmethanol | 0.68 g | S1C2=C(C=C1)C=CC=C2C(O)C2=CC=C(C=C2)C | C16H14OS
